US05969140
A suspension of 1-(2-chloro-4-pyridyl)-2,3-bis(hydroxymethyl)-6-methoxy-7-ethoxynaphthalene (16.0 g) in hydrazine hydrate (50 ml) is refluxed for four hours. The mixture is cooled to room temperature, and then thereto is added water. The precipitated crystals are collected by filtration, washed with water, and dried to give 1-(2-hydrazino-4-pyridyl)-2,3-bis(hydroxymethyl)-6-methoxy-7-ethoxynaphthalene (14.5 g).

reactant | 1-(2-chloro-4-pyridyl)-2,3-bis(hydroxymethyl)-6-methoxy-7-ethoxynaphthalene | 16.0 g | ClC1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OCC)OC)CO)CO | C20H20ClNO4
reactant | water | O | H2O
reactant | hydrazine hydrate | 50 ml | O.NN
product | 1-(2-hydrazino-4-pyridyl)-2,3-bis(hydroxymethyl)-6-methoxy-7-ethoxynaphthalene | 14.5 g | N(N)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OCC)OC)CO)CO | C20H23N3O4
